US07091353B2
4-[(4,5-Dimethyl-furan-2-ylmethyl)-amino]-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione I-130
3-[(4,5-Dimethyl-furan-2-ylmethyl)-amino]-phthalic acid (3 mmol) was treated in the same manner as described above for the synthesis of 2-(2,6-dioxo-piperidin-3-yl)-4-(2-methoxy-ethylamino)-isoindole-1,3-dione. The solid yellow residue was purified by preparative HPLC (Symmetry C18, isocratic, 40% acetonitrile/water) to give 0.25 g (22%) of product as a yellow solid: mp 127–129° C.; 1H NMR (DMSO-d6) δ 11.10 (s, 1H), 7.58 (dd, J=7.4 Hz and 8.4 Hz, 1H), 7.17 (d, J=8.6 Hz, 1H), 7.06 (d, J=7.1 Hz, 1H), 6.91 (t, J=6.1 Hz, 1H), 5.11 (s, 1H), 5.06 (dd, J=5.4 and 12.5 Hz, 1H), 4.45 (d, J=6.0 Hz, 2H), 2.97–2.82 (m, 1H), 2.63–2.44 (m, 2H), 2.13 (s, 3H), 2.08–1.99 (m, 1H), 1.85 (s, 3H); 13C NMR (DMSO-d6) δ 172.75, 170.02, 168.77, 167.21, 148.75, 146.18, 145.82, 136.05, 132.07, 117.57, 114.16, 110.94, 110.55, 109.61, 48.56, 38.94, 30.95, 22.10, 11.08, 9.50; Anal. Calcd. For C20H19N3O5: C, 62.99; H, 5.02; N, 11.02. Found: C, 62.75; H, 4.97; N, 10.72.

reactant | 3-[(4,5-Dimethyl-furan-2-ylmethyl)-amino]-phthalic acid | 3 mmol | CC=1C=C(OC1C)CNC1=C(C(C(=O)O)=CC=C1)C(=O)O | C15H15NO5
reactant | 2-(2,6-dioxo-piperidin-3-yl)-4-(2-methoxy-ethylamino)-isoindole-1,3-dione | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NCCOC)=O)=O | C16H17N3O5
product | 4-[(4,5-Dimethyl-furan-2-ylmethyl)-amino]-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione | 0.25 g, 22% | CC=1C=C(OC1C)CNC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C20H19N3O5
